US05610144
By proceeding in a fashion similar to that described in Example 1, but starting from 2 g of cyclopropyl-methyl (2RS,5SR)-5-phenylprolinate, 1.7 g of 2-[3-(3-methylphenyl)ureido]acetic acid in suspension in 50 cm3 of anhydrous 1,2-dichloroethane and 0.6 cm3 of sulphinyl chloride, 1.1 g of cyclopropylmethyl (2RS,5SR)-1-{2-[3-(3-methylphenyl)ureido}acetyl-5-phenylprolinate, melting at 130° C., are obtained after recrystallization in acetonitrile.

reactant | cyclopropyl-methyl (2RS,5SR)-5-phenylprolinate | 2 g | C1(=CC=CC=C1)C1CCC(N1)C(=O)OCC1CC1 | C15H19NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 1.7 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
solvent | 1,2-dichloroethane | 50 cm3 | ClCCCl | C2H4Cl2
solvent | sulphinyl chloride | 0.6 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 2-[3-(3-methylphenyl)ureido}acetyl-5-phenylprolinate | CC=1C=C(C=CC1)NC(NCC(=O)OC([C@H]1NC(CC1)C1=CC=CC=C1)=O)=O | C21H23N3O4
